* File: myHA.pex.netlist
* Created: Tue Dec  3 14:54:10 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* 
.include "myHA.pex.netlist.pex"
.subckt myHA  GND! VDD! COUT B A S
* 
* S	S
* A	A
* B	B
* COUT	COUT
* VDD!	VDD!
* GND!	GND!
mXI0/MM1 N_NET11_XI0/MM1_d N_B_XI0/MM1_g XI0/NET013 N_GND!_XI0/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=1.08e-14 AS=1.35e-14 PD=4.2e-07 PS=4.8e-07
mXI0/MM0 XI0/NET013 N_A_XI0/MM0_g N_GND!_XI0/MM0_s N_GND!_XI0/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=1.35e-14 AS=1.08e-14 PD=4.8e-07 PS=4.2e-07
mXI2/XI0/MM0 N_XI2/BBAR_XI2/XI0/MM0_d N_B_XI2/XI0/MM0_g N_GND!_XI2/XI0/MM0_s
+ N_GND!_XI2/XI0/MM0_b NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14
+ PD=4.2e-07 PS=4.2e-07
mXI2/MM0 N_S_XI2/MM0_d N_A_XI2/MM0_g N_XI2/BBAR_XI2/MM0_s N_GND!_XI2/MM0_b
+ NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
mXI0/MM2 N_NET11_XI0/MM2_d N_B_XI0/MM2_g N_VDD!_XI0/MM2_s N_VDD!_XI0/MM2_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
mXI0/MM3 N_NET11_XI0/MM2_d N_A_XI0/MM3_g N_VDD!_XI0/MM3_s N_VDD!_XI0/MM2_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
mXI2/XI0/MM1 N_XI2/BBAR_XI2/XI0/MM1_d N_B_XI2/XI0/MM1_g N_VDD!_XI2/XI0/MM1_s
+ N_VDD!_XI2/XI0/MM1_b PMOS_VTL L=5e-08 W=1.8e-07 AD=2.16e-14 AS=2.16e-14
+ PD=6e-07 PS=6e-07
mXI2/MM2 N_S_XI2/MM2_d N_A_XI2/MM2_g N_B_XI2/MM2_s N_VDD!_XI2/MM2_b PMOS_VTL
+ L=5e-08 W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
mXI1/MM0 N_COUT_XI1/MM0_d N_NET11_XI1/MM0_g N_GND!_XI1/MM0_s N_GND!_XI1/MM0_b
+ NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
mXI2/MM1 N_A_XI2/MM1_d N_XI2/BBAR_XI2/MM1_g N_S_XI2/MM1_s N_GND!_XI2/MM1_b
+ NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
mXI1/MM1 N_COUT_XI1/MM1_d N_NET11_XI1/MM1_g N_VDD!_XI1/MM1_s N_VDD!_XI1/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
mXI2/MM3 N_A_XI2/MM3_d N_B_XI2/MM3_g N_S_XI2/MM3_s N_VDD!_XI2/MM3_b PMOS_VTL
+ L=5e-08 W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
*
.include "myHA.pex.netlist.MYHA.pxi"
*
.ends
*
*
